US08703758B2
A) (2S)-2-[(tert-butoxycarbonyl)amino]propyl 4-methylbenzenesulfonate
A mixture of tert-butyl [(1S)-2-hydroxy-1-methylethyl]carbamate (10.0 g), tosyl chloride (12.0 g) and pyridine (100 mL) was stirred for 30 min under ice-cooling, and at room temperature for 2 hr. Tosyl chloride (6.0 g) was further added to the reaction mixture, and the mixture was stirred at room temperature overnight. 0.5M Hydrochloric acid was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The obtained organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound as a white solid (13.5 g).

reactant | tert-butyl [(1S)-2-hydroxy-1-methylethyl]carbamate | 10.0 g | OC[C@H](C)NC(OC(C)(C)C)=O | C8H17NO3
reactant | tosyl chloride | 12.0 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | Tosyl chloride | 6.0 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | Hydrochloric acid | 0.5M | Cl | ClH
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | (2S)-2-[(tert-butoxycarbonyl)amino]propyl 4-methylbenzenesulfonate | 13.5 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H](C)NC(=O)OC(C)(C)C | C15H23NO5S
